US04316893
Preparation of 1-n-Decylazacycloheptan-2-one having the formula
Following example 10, 10.2 g of 50% sodium hydride-mineral oil dispersion (5.1 g NaH, 0.2125 M), 20 g (0.177 M) of azacycloheptan-2-one and 44.2 g (0.2 M) of 1-bromodecane on 19 hr. reflux gave 38 g (84.7%) of product; b.p. 158°-163 °/0.25-0.3 mm.

reactant | sodium hydride | 10.2 g | [H-].[Na+]
reactant | NaH | 5.1 g | [H-].[Na+]
reactant | azacycloheptan-2-one | 0.177 M, 20 g | N1C(CCCCC1)=O | C6H11NO
reactant | 1-bromodecane | 0.2 M, 44.2 g | BrCCCCCCCCCC | C10H21Br
product | 1-n-Decylazacycloheptan-2-one | 38 g, 84.7% | C(CCCCCCCCC)N1C(CCCCC1)=O | C16H31NO
